US07521448B2
1-[4-(Pyridin-3-ylmethoxy)phenyl]-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide.
A mixture of 1-(4-hydroxyphenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide (75 mg, 0.22 mmol), PS-triphenylphosphine resin (327 mg, 0.33 mmol), and 3-pyridinecarbinol (35 mg, 32 μL, 0.33 mmol) in anhydrous DMF (or THF) (2 mL) under N2, was treated dropwise with DIAD (Diisopropyl azodicarboxylate) (66 mg, 0.33 mmol, 64 μL). The mixture was heated at 40° C. and stirred vigorously for 18 h under nitrogen, after which time it was concentrated in vacuo and the residue purified by reverse-phase preparative HPLC to give the title compound as an opaque glassy solid. 1H NMR (CDCl3, 400 MHz): δ 8.74 (dd, J=2.4, 0.4 Hz, 1H), 8.67-8.62 (m, 2H), 8.53 (dd, J=4.8, 1.6 Hz, 1H), 8.37 (d, J=1.2 Hz, 1H), 8.03 (s, 1H), 7.92 (dd, J=8.8, 1.6 Hz, 1H), 7.84 (ddd, J=8.0, 2.4, 1.6 Hz, 1H), 7.77 (ddd, J=8.4, 1.6, 1.6 Hz, 1H), 7.59 (dd, J=8.4, 0.4 Hz, 1H), 7.45-7.35 (m, 4H), 7.32-7.26 (m, 2H), 7.20-7.13 (m, 2H), 5.18 (s, 2H), 4.74 (d, J=6.0 Hz, 2H); MS (ES+): m/z 436 (100) [MH+], 437 (30) [MH+2].

reactant | 1-(4-hydroxyphenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | 0.22 mmol, 75 mg | OC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C20H16N4O2
reactant | triphenylphosphine resin | 0.33 mmol, 327 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | THF | C1CCOC1 | C4H8O
reactant | DIAD | 0.33 mmol, 64 μL, 66 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-(Pyridin-3-ylmethoxy)phenyl]-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | N1=CC(=CC=C1)COC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C26H21N5O2
